US04153446
In a similar manner as in Example 1, bromocyclobutane was reacted with o-nitrophenol to yield 2-cyclobutoxynitrobenzene; which was reduced to the corresponding aniline; reacted with N-methylolpyrrolidone to form the corresponding N-methylenepyrrolidonyl derivative; which was acylated with chloroacetyl chloride to form the desired product.

reactant | bromocyclobutane | BrC1CCC1 | C4H7Br
reactant | o-nitrophenol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
product | 2-cyclobutoxynitrobenzene | C1(CCC1)OC1=C(C=CC=C1)[N+](=O)[O-] | C10H11NO3
